US05145483
Preparation of 5-acetamido-2-(N-benzyloxycarbonyl -N-methylamino)phenol
3.3×10-2 mole (10 g) of 2-(N-benzyloxycarbonyl -N-methylamino)-5-nitrophenol is added to 40 g of iron powder in 60 ml of 96° strength ethanol mixed with 20 ml of acetic acid brought to 80° C., the temperature being maintained at 80° C. When the addition is complete, heating is maintained for 30 minutes. The inorganic salts present in the reaction medium are removed by filtration while hot. The filtrate is diluted with 800 ml of ice-cold water. 3.7×10-2 mole (3.5 ml) of acetic anhydride is then added. The expected product crystallizes after 3 hours. After filtration and drying, the product obtained is recrystallized from a water/ethanol mixture. It then melts at 174° C.

reactant | 2-(N-benzyloxycarbonyl -N-methylamino)-5-nitrophenol | 3.3×10-2 mole, 10 g | C(C1=CC=CC=C1)OC(=O)N(C)C1=C(C=C(C=C1)[N+](=O)[O-])O | C15H14N2O5
reactant | ethanol | C(C)O | C2H6O
reactant | acetic anhydride | 3.7×10-2 mole, 3.5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | iron | 40 g | [Fe] | Fe
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-acetamido-2-(N-benzyloxycarbonyl -N-methylamino)phenol | C(C)(=O)NC=1C=CC(=C(C1)O)N(C)C(=O)OCC1=CC=CC=C1 | C17H18N2O4
